US07812040B2
N-Benzyl-3-oxocyclobutanecarboxamide.
CDI (10.2 g, 0.063 mol) was added to a solution of 3-oxo-cyclobutanecarboxylic acid (6 g, 0.052 mol) in THF (60 ml) at 0° C. under stirring, the mixture was stirred at RT for 1 h. Benzylamine (6.9 ml, 0.063 mol) was added to the mixture and the mixture was stirred at RT for 3 h and evaporated. The residue was purified by chromatography (silica gel, 63-100 μm, 300 g, CHCl3/MeOH 100:0→95:5) to give the title compound (9.5 g, 89%) as white crystals. LC/MS data: 204.0, 205.1 (M+H) (calculated for C12H13NO2 203.24). 1H NMR data (DMSO-d6): 8.62 (br.s, 1H, NH); 7.21-7.36 (m, 5H, Ph); 4.32 (d, 2H, CH2, J=6.1 Hz); 3.10-3.28 (m, 5H).

reactant | CDI | 0.063 mol, 10.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-oxo-cyclobutanecarboxylic acid | 0.052 mol, 6 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | Benzylamine | 0.063 mol, 6.9 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N-Benzyl-3-oxocyclobutanecarboxamide | 9.5 g, 89% | C(C1=CC=CC=C1)NC(=O)C1CC(C1)=O | C12H13NO2
